US09382188B2
3-cyclopropyl-3-(3-(((5-(2,2-dimethylpropyl)-6-(4-(trifluoromethoxy)phenyl)pyridin-3-yl)oxy)methyl)phenyl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(3-(((5-neopentyl-6-(((trifluoromethyl)sulfonyl)oxy)pyridin-3-yl)oxy)methyl)phenyl)propanoate (65.2 mg) in toluene (1.5 mL) were added (4-(trifluoromethoxy)phenyl)boronic acid (24.7 mg), 2M aqueous sodium carbonate solution (720 μL), and tetrakis(triphenylphosphine)palladium(0) (13.8 mg), and the mixture was heated in a microwave synthesizer (Anton Parr, Synthos3000) at 100° C. for 90 min. Water (1 mL) and ethyl acetate (3 mL) were added to the reaction solution and the mixture was stirred. The organic layer was passed through a phase separation filter, and the solvent was evaporated by an air blowing apparatus. The residue was purified by HPLC (column: YMC Triart C18, mobile phase: acetonitrile/10 mM aqueous ammonium hydrogen carbonate solution) and the solvent was evaporated by an air blowing apparatus. To the residue were added ethanol (1 mL) and 2M aqueous lithium hydroxide solution (180 μL), and the mixture was stirred at 60° C. for 1 hr. 1M Hydrochloric acid (360 μL) was added and the obtained solution was purified by HPLC (column: YMC Triart C18, mobile phase: acetonitrile/10 mM aqueous ammonium hydrogen carbonate solution), and the solvent was evaporated by an air blowing apparatus to give the title compound (14.9 mg).

reactant | ethyl 3-cyclopropyl-3-(3-(((5-neopentyl-6-(((trifluoromethyl)sulfonyl)oxy)pyridin-3-yl)oxy)methyl)phenyl)propanoate | 65.2 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)OS(=O)(=O)C(F)(F)F | C26H32F3NO6S
reactant | (4-(trifluoromethoxy)phenyl)boronic acid | 24.7 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | sodium carbonate | 2M, 720 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 1 mL | O | H2O
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 13.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 3-cyclopropyl-3-(3-(((5-(2,2-dimethylpropyl)-6-(4-(trifluoromethoxy)phenyl)pyridin-3-yl)oxy)methyl)phenyl)propanoic acid | 14.9 mg | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=CC=C(C=C1)OC(F)(F)F | C30H32F3NO4
